US04666913
Step 1: 6-(Bromoacetyl)-3,4-dihydro-2(1H)-quinazolinone
Bromoacetyl chloride (6.2 g) is added dropwise to a stirring mixture of 3,4-dihydro-2(1H)-quinazolinone (2.6 g) and anhydrous aluminum chloride (6.3 g) in carbon disulfide (60 ml). The reaction mixture is stirred under reflux for 4.5 hours, the carbon disulfide decanted, and the residue treated with HCl (6N). The resulting solid is poured into ice water, filtered, the filtered solid washed with water and dried in vacuo, affording the desired product, which is used in the next step without further purification.

reactant | Bromoacetyl chloride | 6.2 g | BrCC(=O)Cl | C2H2BrClO
reactant | 3,4-dihydro-2(1H)-quinazolinone | 2.6 g | N1C(NCC2=CC=CC=C12)=O | C8H8N2O
reactant | aluminum chloride | 6.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 60 ml | C(=S)=S | CS2
product | 6-(Bromoacetyl)-3,4-dihydro-2(1H)-quinazolinone | BrCC(=O)C=1C=C2CNC(NC2=CC1)=O | C10H9BrN2O2
